US04272278
A mixture of o-iodotoluene and anhydrous nickel chloride is stirred under a nitrogen atmosphere at 160° C. While maintaining the temperature in a range of 160°-170° C., diethylmethylphosphonite is added dropwise to the mixture. Ethyliodide distills rapidly from the mixture. Following the addition of the phosphonite, the reaction mixture is heated at 165°-175° C., for an hour, then cooled. Upon cooling, the reaction mixture is poured onto ice-water and extracted with chloroform. The chloroform extracts are washed with water, dried over magnesium sulfate and then concentrated in vacuo to yield a colorless oil. This oil is treated directly with a solution containing phosphorous pentachloride in benzene and the resulting mixture is refluxed for 1 hour, then concentrated in vacuo to yield an oil. This oil is distilled to yield methyl-o-tolylphosphinyl chloride. The methyl-o-tolylphosphinyl chloride is added to a liter of carbon tetrachloride and the resulting mixture is heated to reflux temperatures by irradiating the mixture using a 275 watt sunlamp mounted below the pyrex glass flask. Chlorine gas is bubbled into the reaction vessel until formation of o-chloromethylphenylmethylphosphinyl chloride is 60-75% complete in order to prevent formation of the dichloro derivative. The irradiation is then stopped and the reaction mixture is concentrated in vacuo to yield an oily residue. The oily residue is fractionally distilled to remove any unreacted methyl-o-tolylphosphinyl chloride to yield o-chloromethylphenylmethylphosphinyl chloride.

reactant | o-iodotoluene | IC1=C(C=CC=C1)C | C7H7I
reactant | diethylmethylphosphonite | C(C)OP(OCC)C | C5H13O2P
reactant | phosphorous pentachloride | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | benzene | C1=CC=CC=C1 | C6H6
catalyst | nickel chloride | [Ni](Cl)Cl
product | methyl-o-tolylphosphinyl chloride | CP(=O)(C1=C(C=CC=C1)C)Cl | C8H10ClOP
